US09120785B2
A dry round bottom flask was charged with trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid (2.00 g, 10.74 mmol) and the reaction vessel was placed under an atmosphere of argon (3× vacuum/argon cycle). Dichloromethane (11 mL) was added followed by DMF (0.01 mL, 0.129 mmol). The reaction was cooled to 0° C. in an ice bath, then oxalyl chloride (1.00 mL, 11.42 mmoles) was added drop-wise. The ice bath was removed after 1 hour and the reaction was stirred at ambient temperature for 14 hours as gradual gas evolution occurred. [1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (236.0 mg, 0.322 mmol) was then added to the reaction flask followed by tetrahydrofuran (11 mL) then a solution of diethylzinc in tetrahydrofuran (1.0 M, 12.9 mL, 12.9 mmol). The reaction was stirred at ambient temperature for two hours and was then poured into cold saturated aqueous ammonium chloride (100 mL). The resulting biphasic solution was diluted with diethyl ether (100 mL). The organic phase was separated and dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-100% ethyl acetate/hexanes) to afford methyl trans-4-propanoylcyclohexanecarboxylate as a clear oil. 1H NMR (500 MHz, CDCl3) δ 3.67 (s, 3H), 2.47 (q, J=7.3 Hz, 2H), 2.40-2.21 (m, 2H), 2.12-2.00 (m, 2H), 1.94 (d, J=13.9 Hz, 2H), 1.53-1.20 (m, 4H), 1.03 (t, J=7.3 Hz, 3H).

reactant | trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid | 10.74 mmol, 2.00 g | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C9H14O4
reactant | DMF | 0.129 mmol, 0.01 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 11.42 mmoles, 1.00 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethylzinc | C(C)[Zn]CC
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | 0.322 mmol, 236.0 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
solvent | Dichloromethane | 11 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 12.9 mmol, 1.0 M, 12.9 mL | O1CCCC1 | C4H8O
product | methyl trans-4-propanoylcyclohexanecarboxylate | C(CC)(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C11H18O3
